US06852749B1
Preparation of 4-(1-Butyl)-1-(4-methoxyphenyl)-2-phenyl-3,5-pyrazolidinedione
Diethyl butylmalonate (4.33 g; 20.0 mmol) was added to a stirred solution of sodium (0.46 g; 20.0 mmol) in absolute ethanol (20 ml), followed by crude 1-(4-methoxyphenyl)-2-phenylhydrazine (4.3 g; 20 mmol max.) in absolute ethanol (5 ml). About ⅔ of the ethanol was distilled off and xylene (20 ml) was added to the residue. The reaction mixture was heated to 140-145° C. (bath temperature) for 15 h to distill off the rest of the ethanol. The reaction mixture was cooled to 0° C. (bath temperature) and poured into ice water (ca. 100 ml). The aqueous layer was extracted with CH2Cl2 (2×15 ml); the extracts were discarded. The cold aqueous layer was acidified with 6 H HCl (5 ml) and extracted with CH2Cl2 (3×10 ml). The combined extracts were washed with water (2×10 ml) and dried (MgSO4). Filtration and evaporation gave 3.84 g amber oil. Purified by flash chromatography on a 130×65 mm silica gel 60 column eluted with ethyl acetate-heptane (1:3) to give 1.45 g (21%) colourless oil.

reactant | Diethyl butylmalonate | 20.0 mmol, 4.33 g | C(CCC)C(C(=O)OCC)C(=O)OCC | C11H20O4
reactant | sodium | 20.0 mmol, 0.46 g | [Na] | Na
reactant | 1-(4-methoxyphenyl)-2-phenylhydrazine | 20 mmol, 4.3 g | COC1=CC=C(C=C1)NNC1=CC=CC=C1 | C13H14N2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(1-Butyl)-1-(4-methoxyphenyl)-2-phenyl-3,5-pyrazolidinedione | 3.84 g | C(CCC)C1C(N(N(C1=O)C1=CC=C(C=C1)OC)C1=CC=CC=C1)=O | C20H22N2O3
